US07375095B2
After placing 390 parts by weight of n-dodecanol into a reaction vessel and heating to 125° C., one part by weight of p-toluene sulfonic acid as a catalyst was added to the solution, and then the pressure in the vessel was reduced to 5-10 mmHg. Separately, 100 parts by weight of anhydrous crystalline cyclotetrasaccharide, obtained by the method in Example B-3, was suspended in 130 parts by weight of n-dodecanol. The suspension was added into the above vessel drop by drop in a flow rate of 2.3 parts by weight/min with taking a time of 100 min for the reaction. Successively, the reactant was neutralized with aqueous sodium carbonate solution, and cyclotetrasaccharide dodecyl ether was obtained by evaporating residual alcohol.

reactant | n-dodecanol | C(CCCCCCCCCCC)O | C12H26O
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
catalyst | p-toluene sulfonic acid | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
product | dodecyl ether | C(CCCCCCCCCCC)OCCCCCCCCCCCC | C24H50O
